US08791119B2
To a solution under nitrogen of 28.7 g (102 mmol) of sodium 4-(tert-butyloxycarbonyl)-1-formylpiperazine-2-carboxylate (CAS 1108698-36-7) in 1 l of dichloromethane are added 21.5 g (113 mmol) of p-toluenesulfonyl chloride. After stirring for 40 minutes, 8.2 ml (102 mmol) of 2-chloroacrylonitrile are added. After stirring for 40 minutes, 32.8 ml (235 mmol) of triethylamine are added dropwise and the mixture is stirred overnight at room temperature, and then refluxed for 1 hour. The solution is then cooled to room temperature. 150 ml of water are added. The organic phase is separated out by settling, washed twice with 100 ml of water, dried over sodium sulfate and filtered, and concentrated under reduced pressure. The residue obtained is chromatographed on a column of silica gel, eluting with a mixture of 0 to 10% ethyl acetate in dichloromethane, to give 17.5 g of tert-butyl 8-cyano-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a white solid after dissolving in a mixture of cyclohexane and dichloromethane and then precipitating by slow concentration and drying under reduced pressure.

reactant | sodium 4-(tert-butyloxycarbonyl)-1-formylpiperazine-2-carboxylate | 102 mmol, 28.7 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C=O)C(=O)[O-].[Na+]
reactant | p-toluenesulfonyl chloride | 113 mmol, 21.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-chloroacrylonitrile | 102 mmol, 8.2 ml | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 235 mmol, 32.8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1 l | ClCCl | CH2Cl2
solvent | water | 150 ml | O | H2O
product | tert-butyl 8-cyano-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 17.5 g | C(#N)C=1C=CN2C1CN(CC2)C(=O)OC(C)(C)C | C13H17N3O2
